US03935209
3.3 G. of 2-amino-1-nitro-4-(thien-2-ylthio)benzene is treated with 16 g. stannous chloride in 16 ml. concentrated hydrochloric acid on the steam bath for 5 minutes. The mixture is cooled, decanted and the gummy residue washed with 16 ml. 6N hydrochloric acid. The residue is dissolved in water, and treated with potassium bicarbonate solution and chloroform. The chloroform is dried and stripped yielding 1,2-diamino-4-(thien-2-ylthio)benzene.

reactant | 2-amino-1-nitro-4-(thien-2-ylthio)benzene | NC1=C(C=CC(=C1)SC=1SC=CC1)[N+](=O)[O-] | C10H8N2O2S2
reactant | hydrochloric acid | Cl | ClH
product | 1,2-diamino-4-(thien-2-ylthio)benzene | NC1=C(C=C(C=C1)SC=1SC=CC1)N | C10H10N2S2
